US07230098B2
2-(2-Amino-5-bromo-pyridin-3-yloxymethyl)-benzonitrile (9.0 g, 29.6 mmol), 4-carboxybenzeneboronic acid (5.4 g, 32.5 mmol), tetrakis(triphenylphosphine)palladium(0) (1.1 g, 1.0 mmol), anhydrous potassium carbonate (13.8 g, 70.0 mmol), dimethylformamide (72 mL) and water (36 mL) were charged to a 250 mL three neck round bottom flask equipped with a thermometer, a reflux condenser and magnetic stirring. The mixture was purged with nitrogen and gradually heated from 81 to 90° C. over a period of 2 hr. Thin layer chromatography (ethyl acetate:hexane:acetic acid 4:6:0.5) showed a trace of starting material at Rf 0.7, product at Rf 0.4 and an impurity at Rf 0.5. The mixture was cooled to 45° C. The sticky solids were collected by vacuum filtration, washed with 30 mL of ethanol:water 1:1 and discarded. The filtrate was diluted with 432 mL of water and 8 mL of 9 N potassium hydroxide solution (to pH 12–13), cooled in an ice bath and stirred for 30 minutes. The solids were collected by vacuum filtration and washed with 20 mL of water. The solids were discarded. The filtrate was cooled in an ice bath acidified with acetic acid to pH 7.5 using a pH meter. The solids were collected by vacuum filtration, washed with 20 mL water and dried under vacuum to give 8.5 g (83% yield) of 4-[6-amino-5-(2-cyano-benzyloxy)-pyridin-3-yl]-benzoic acid as a very dark solid.

reactant | 2-(2-Amino-5-bromo-pyridin-3-yloxymethyl)-benzonitrile | 29.6 mmol, 9.0 g | NC1=NC=C(C=C1OCC1=C(C#N)C=CC=C1)Br | C13H10BrN3O
reactant | 4-carboxybenzeneboronic acid | 32.5 mmol, 5.4 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | potassium carbonate | 70.0 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 72 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.0 mmol, 1.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 36 mL | O | H2O
product | 4-[6-amino-5-(2-cyano-benzyloxy)-pyridin-3-yl]-benzoic acid | 8.5 g, 83% yield | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OCC1=C(C=CC=C1)C#N | C20H15N3O3
